US06498154B1
A solution of 2-amino-5-bromobenzoic acid (10 g, 46 mmol) in dry THF (200 mL) was treated at −78° C. under nitrogen with a solution of methylmagnesium brormide in ether (3.0 M, 90 mL, 270 mmol). The reaction mixture was slowly warmed to ambient temperature, kept stirring for 48 hours under nitrogen and then poured into a cold 0.5 N aqueous hydrochloride solution (300 mL). The mixture was neutralized with aqueous 1 N sodium hydroxide solution and ethyl acetate (300 mL) was added. The organic layer was separated and aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine and dried (MgSO4). After removal of solvent in vacuo, the residue was purified by a silica gel flash column chromatography(hexane:ethyl acetate/3:2) to give 2-(2-amino-5-bromophenyl)propan-2-ol as off-white solid (6 g, 57%): mp 62-63° C.; 1H-NMR (CDCl3) δ 7.19 (d, 1H, J=2.3 Hz), 7.12 (dd, 1H, J=8.4, 2.3 Hz), 6.51 (d, 1H, J=8.4 Hz), 4.70 (s, 2H), 1.82 (s, 1H), 1.65 (s, 6H).

reactant | 2-amino-5-bromobenzoic acid | 46 mmol, 10 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | methylmagnesium | C[Mg]
reactant | ether | 270 mmol, 3.0 M, 90 mL | CCOCC | C4H10O
reactant | hydrochloride | 0.5 N, 300 mL | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-amino-5-bromophenyl)propan-2-ol | 6 g, 57% | NC1=C(C=C(C=C1)Br)C(C)(C)O | C9H12BrNO
